US04874544
0.24 moles (S)-(+)-3-hydroxy-butyric acid ethyl ester in 100 ml benzene are added to 0.07 moles anhydrous ZnCl2 while agitating and while excluding moisture. Subsequently, 0.72 moles SOCl2 are added, and the product is agitated at room temperature for two days. Then the reaction mixture is treated with saturated NaHClO3 solution. After separating off the aqueous phase, it is dried with Na2SO4. The solvent is distilled off, and the residue is fractionally distilled. One obtains (R)-(-)-chlorobutyric acid ethyl ester with a yield of 65 percent.

reactant | (S)-(+)-3-hydroxy-butyric acid ethyl ester | 0.24 moles | C(C)OC(C[C@H](C)O)=O | C6H12O3
reactant | SOCl2 | 0.72 moles | O=S(Cl)Cl | Cl2OS
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
catalyst | ZnCl2 | 0.07 moles | [Cl-].[Cl-].[Zn+2]
product | (R)-(-)-chlorobutyric acid ethyl ester | yield of 65 percent | C(C)OC([C@@H](CC)Cl)=O | C6H11ClO2
